US04956359
3-[(4-Chlorophenyl)thio]-N,N-dimethyl-1-azetidinecarboxamide
A solution of 2.6 g (0.01 mole) of 3-[(4-chlorophenyl)thio]-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was stirred while cooling in a water bath and treated with 2.5 ml (0.02 mole) of 40% dimethylamine in water. After stirring for 3 hr, the reaction mixture was diluted with 200 ml of water and the resulting product collected ny filtration (2.6 g). Recrystallization from acetone/isopropyl ether yielded 2 g (74.1%) of fine white crystals, m.p. 96°-97° C.

reactant | 3-[(4-chlorophenyl)thio]-1-azetidinecarbonyl chloride | 0.01 mole, 2.6 g | ClC1=CC=C(C=C1)SC1CN(C1)C(=O)Cl | C10H9Cl2NOS
reactant | dimethylamine | 0.02 mole, 2.5 ml | CNC | C2H7N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 200 ml | O | H2O
product | 3-[(4-Chlorophenyl)thio]-N,N-dimethyl-1-azetidinecarboxamide | 2 g, 74.1% | ClC1=CC=C(C=C1)SC1CN(C1)C(=O)N(C)C | C12H15ClN2OS
